US05008426
14. 6-(2,6-Dimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
60.1 g (0.3 mol) of 2,6-dimethoxybenzoyl chloride were warmed to 85° C. under a nitrogen atmosphere. 69 g (0.3 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise while stirring. The temperature was then slowly increased to 125° C. When the reaction was complete and after cooling, 150 ml of toluene were added. After crystallization, 99 g (87% of theory) of the abovementioned compound of melting point 96° to 98° C. were obtained.

reactant | 2,6-dimethoxybenzoyl chloride | 0.3 mol, 60.1 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.3 mol, 69 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2,6-Dimethoxybenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | COC1=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C(=CC=C1)OC | C21H17O5P
